US08084623B2
A solution of (S)-2-(3,4-dichloro-benzoyl)-4-fluoro-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.220 g, 0.545 mmol) in 1N methanolic HCl (3 mL) was stirred at 20° C. under nitrogen for 18 hours. The reaction mixture was concentrated in vacuo then purified by chromatography (silica, 0 to 20% MeOH in DCM) to yield (3,4-dichloro-phenyl)-((2R,4S)-4-fluoro-2-propyl-pyrrolidin-2-yl)-methanone (0.048 g, 0.158 mmol, 29%) as a first fraction (yellow oil) then (3,4-dichloro-phenyl)-((2S,4S)-4-fluoro-2-propyl-pyrrolidin-2-yl)-methanone (0.072 g, 0.238 mmol, 44%) as a second fraction (yellow oil), each as a monohydrochloride salt, MS=304 [M+H]+.

reactant | (S)-2-(3,4-dichloro-benzoyl)-4-fluoro-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.545 mmol, 0.220 g | C(C)(C)(C)OC(=O)N1[C@](CC(C1)F)(CCC)C(C1=CC(=C(C=C1)Cl)Cl)=O | C19H24Cl2FNO3
solvent | HCl | 1N, 3 mL | Cl | ClH
product | (3,4-dichloro-phenyl)-((2R,4S)-4-fluoro-2-propyl-pyrrolidin-2-yl)-methanone | 0.158 mmol, 0.048 g, 29% | ClC=1C=C(C=CC1Cl)C(=O)[C@@]1(NC[C@H](C1)F)CCC | C14H16Cl2FNO
